US04971982
94 mg of 6-benzoyl-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran and 52 mg of m-chloroperbenzoic acid were stirred in 15 ml of dichloromethane at room temperature until thin-layer chromatography indicated that the reaction was complete. The mixture was washed in succession with sodium bisulphite solution and sodium bicarbonate solution, then dried over sodium sulphate and evaporated. The residue was chromatographed on silica gel using 10% (v/v) methanol/ethyl acetate for the elution. After trituration with diethyl ether there were obtained 20 mg of 2-(6-benzoyl-3,4-dihydro-2,2-dimethyl-2H-1-benzo-pyran-4-yl)pyridine N-oxide of melting point 134°-136° C.

reactant | 6-benzoyl-3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 94 mg | C(C1=CC=CC=C1)(=O)C=1C=CC2=C(C(CC(O2)(C)C)C2=NC=CC=C2)C1 | C23H21NO2
reactant | m-chloroperbenzoic acid | 52 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2-(6-benzoyl-3,4-dihydro-2,2-dimethyl-2H-1-benzo-pyran-4-yl)pyridine N-oxide | 20 mg | C(C1=CC=CC=C1)(=O)C=1C=CC2=C(C(CC(O2)(C)C)C2=[N+](C=CC=C2)[O-])C1 | C23H21NO3
